US07759385B2
{1-(4-fluorophenyl)-4-[3-(1H-indol-3-yl)pyrrolidine-1-yl]cyclohexyl}-dimethylamine dihydrochloride
5.5M isopropanolic hydrochloric acid (0.44 ml, 2.43 mmole) was added to a solution of the polar diastereoisomer of {1-(4-fluorophenyl)-4-[3-(1H-indol-3-yl)pyrrolidine-1-yl]cyclohexyl}-dimethylamine (330 mg, 0.81 mmole) in ethyl methyl ketone (25 ml) and methanol (5 ml). After a reaction time of 2 hours the polar dihydrochloride (Example 12) with an m.p. of 223°-230° C. was filtered off in a yield of 92% (358 mg).

reactant | hydrochloric acid | 2.43 mmole, 5.5M, 0.44 ml | Cl | ClH
reactant | {1-(4-fluorophenyl)-4-[3-(1H-indol-3-yl)pyrrolidine-1-yl]cyclohexyl}-dimethylamine | 0.81 mmole, 330 mg | FC1=CC=C(C=C1)C1(CCC(CC1)N1CC(CC1)C1=CNC2=CC=CC=C12)N(C)C | C26H32FN3
solvent | ethyl methyl ketone | 25 ml | CC(=O)CC | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | {1-(4-fluorophenyl)-4-[3-(1H-indol-3-yl)pyrrolidine-1-yl]cyclohexyl}-dimethylamine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C1(CCC(CC1)N1CC(CC1)C1=CNC2=CC=CC=C12)N(C)C | InChI=1S/C26H32FN3.2ClH/c1-29(2)26(20-7-9-21(27)10-8-20)14-11-22(12-15-26)30-16-13-19(18-30)24-17-28-25-6-4-3-5-23(24)25;;/h3-10,17,19,22,28H,11-16,18H2,1-2H3;2*1H
